US09290511B2
The reaction was stirred for min and then allowed to warm to room temperature. After stirring for 30 minutes, methyl-2-[cyclobutyl-[[1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)-4-piperidyl]methyl]amino]acetate (37 mg, 0.082 mmol) in DCM (0.5 mL) was added dropwise and the reaction stirred for 2 h. A further 123 μL of trimethylaluminium and a further 123 μL of methylamine were added and the reaction stirred overnight at room temperature. The solvents were then evaporated and the residue purified by column chromatography eluting 0 to 5% v/v of 7 M ammonia/methanol in DCM to give 2-[cyclobutyl-[[1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)-4-piperidyl]methyl]amino]-N-methyl-acetamide as a colourless solid (6 mg). LCMS RT=3.01. M+1=450.

reactant | methyl-2-[cyclobutyl-[[1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)-4-piperidyl]methyl]amino]acetate | 0.082 mmol, 37 mg | COC(CN(CC1CCN(CC1)C=1C2=C(N=CN1)SC=C2C2=CC=CC=C2)C2CCC2)=O | C25H30N4O2S
reactant | trimethylaluminium | 123 μL | C[Al](C)C
reactant | methylamine | 123 μL | CN | CH5N
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 2-[cyclobutyl-[[1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)-4-piperidyl]methyl]amino]-N-methyl-acetamide | 6 mg | C1(CCC1)N(CC(=O)NC)CC1CCN(CC1)C=1C2=C(N=CN1)SC=C2C2=CC=CC=C2 | C25H31N5OS
